US07915424B2
3-Phenylethynylpyridine
Add phenylacetylene (0.175 mL, 1.6 mmol), copper (I) iodide (0.028 g, 0.15 mmol) and bis(triphenylphosphine)palladium (II) dichloride (0.051 g, 0.07 mmol) to a solution of 3-bromopyridine (0.140 mL, 1.45 mmol) in degassed triethylamine (6 mL) and stir under nitrogen at 80° C. for 16 h. Cool to room temperature, filter through diatomaceous earth, wash with ethyl acetate, and concentrate. Purify the residue by silica gel chromatography, eluting with 100:0 to 0:100 hexanes:dichlormethane, to give the title compound (91.1 mg, 35%).

reactant | phenylacetylene | 1.6 mmol, 0.175 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-bromopyridine | 1.45 mmol, 0.140 mL | BrC=1C=NC=CC1 | C5H4BrN
solvent | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 0.15 mmol, 0.028 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.07 mmol, 0.051 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 3-Phenylethynylpyridine | 91.1 mg, 35% | C1(=CC=CC=C1)C#CC=1C=NC=CC1 | C13H9N
